US09387200B2
a) 3-(4-fluoro-phenyl)-4-hydroxy-7-iodo-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester
To a solution of 3-(4-fluoro-phenyl)-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester (400 mg, 1.25 mmol) in CH2Cl2 (12.5 mL) was added bis(2,4,6-trimethylpyridine)iodine(I) hexafluorophosphate (1.29 g, 2.51 mmol). The reaction mixture was allowed to stir at r.t. for 20 h. Then the mixture was filtered and the filtrate was concentrated in vacuo. The residue was purified by flash column chromatography on silica gel. Elution with 0-20% EtOAc/CH2Cl2, gave the title product (382 mg) as a yellow solid: MS (m/z) 442.9 (M−1).

reactant | 3-(4-fluoro-phenyl)-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester | 1.25 mmol, 400 mg | C(C)OC(=O)C=1C(=C2C(=CN1)SN=C2C2=CC=C(C=C2)F)O | C15H11FN2O3S
reactant | bis(2,4,6-trimethylpyridine)iodine(I) hexafluorophosphate | 2.51 mmol, 1.29 g | CC1=CC(=NC(=C1)C)C.CC1=CC(=NC(=C1[IH+])C)C.F[P-](F)(F)(F)(F)F
solvent | CH2Cl2 | 12.5 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-fluoro-phenyl)-4-hydroxy-7-iodo-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester | 382 mg | C(C)OC(=O)C=1C(=C2C(=C(N1)I)SN=C2C2=CC=C(C=C2)F)O | C15H10FIN2O3S
